### PR TITLE
[Merged by Bors] - feat(CategoryTheory): detecting limit cones over connected diagrams

### PR DESCRIPTION
**Pull request by TwoFX**
A cocone `c` over a connected diagram is a colimit cocone if and only if `colimMap c.ι` is an isomorphism (where `c.ι : F ⟶ const c.pt` is the natural transformation that defines the cocone).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Connected.lean [hunk 1]
```diff
@@ -72,6 +81,71 @@ def isColimitConstCocone : IsColimit (constCocone J X) where
...
+  simp only [limMap_π, Functor.const_obj_obj, limit.cone_x, constCone_pt, Iso.trans_hom, assoc,
+    limit.conePointUniqueUpToIso_hom_comp]
+  congr 1
+  simp [← Iso.inv_comp_eq_id]
+
+theorem Cone.isLimit_iff_isIso_limMap_π {F : J ⥤ C} [HasLimit F] (c : Cone F) :
+    Nonempty (IsLimit c) ↔ IsIso (limMap c.π) :=
+  ⟨fun ⟨h⟩ => IsLimit.isIso_limMap_π h, fun _ => ⟨c.isLimitOfIsIsoLimMapπ⟩⟩
+
+/-- If `J` is connected, `f : J ⥤ C` and `C` is a cocone on `F`, then to check that `c` is a
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Connected.lean:124]:
```suggestion
/-- If `J` is connected, `F : J ⥤ C` and `C` is a cocone on `F`, then to check that `c` is a
```

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by TwoFX** [comment]
bors d+
